data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,6670,"CC(=O)[O-:1].C[P+:2](C)(O)[O:3][CH3:4]|(1, 4);((4, 3), 2)"
train,pmechdb_split_0,0,5012,"CC(=O)O[I+:1]1(OC(C)=O)OC(=O)C2=C1C=CC=C2.CC(=O)[O-].COC1=C(OC)C(C(=O)N2CCC3=C(C=C4OCOC4=C3)C([OH:2])CC2)=C(Br)C=C1|(2, 1)"
train,pmechdb_split_0,0,2101,"CO[CH:1]([OH:2])[SH+:3]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,465,"COC1=CC([C:1](=[CH:2]Br)[O-:3])=CC(OC)=C1C(=O)C1=C(OC)C=CC=C1C#N.O.[Br-].[Br:4][Br:5].[Na+]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,3925,"CC12CCC(=O)C=C1CCC1C2CCC2(C)C1CC[C:1]2=[O:2].[H:3][BH3-:4]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,7103,"CC1=CC=C([S:1](=O)([O:2][CH2:3][C:4]2(C)C3CCC4(C3)C(C)CCC(S(=O)(=O)C3=CC=CC=C3)[C:5]42[O-:6])=[O:7])C=C1.[Na+]|(6, 5);((5, 4), 3);((3, 2), 1);((1, 7), 7)"
train,pmechdb_split_0,0,6414,"CCOC(=O)[CH:1]=[C:2](OCC)[O-:3].C[C:4](=[O:5])[CH:6]=[CH2:7]|(3, 2);((2, 1), 7);((7, 6), 4);((4, 5), 5)"
train,pmechdb_split_0,0,5766,"CC[CH:1]([OH:2])[OH+:3]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2756,"O=S(=O)(O)[C:1]1([H:2])C=CC=C2C=CC=C[C+:3]21.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,2626,"C[As+](C)(C)[CH:1]=[CH2:2].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9446,"C[C+]=C[Si:1](C)(C)C.C[O:2][Cu]|(2, 1)"
train,pmechdb_split_0,0,6705,"CC(C)[O-].CCCC1CC[C:1]([H:2])([O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C)C(C2=CC=CC=C2)C1|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,4808,"C=[C+:1]C.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,7197,"Br[C:1]1=[CH:2]C2=C(C=CC=C2)C=C1.O=[N+:3]=[O:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3915,"CC1=CC=C(S(=O)(=O)[O-])C=C1.COC(=O)[NH:1]CCCC(O)[C:2](C1=CC=CC=C1)=[OH+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9563,"CCNC[CH:1]=[C:2](OC)[O-:3].[H:4][OH2+:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,8778,"COCC(C)[OH:1].O=P(O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5932,"C[NH:1][CH:2](N)[OH2+:3].[Cl-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5582,"CC(=O)OC(=O)CC[C:1](C#N)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6616,"C=CC[O:1][H:2].C[CH:3](C)[Li:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,7576,"CS[CH+:1][NH-:2]|(2, 1)"
train,pmechdb_split_0,0,511,"CCOCC.O=C1C=C[C:1](=[O+:2][B-](F)(F)F)C1.OCC(C[OH:3])(C1=CC=CC=C1)C1=CC=CC=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6811,"O=C(O)CCCC=CCC1C(CO)[O:1]1.[Cl][Sn:2]([Cl])([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,5374,"ClC12C3CCC(C3)C(C3CC=CC31)[C:1]2=[O:2].[H:3][AlH3-:4].[Li+]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,1164,"CC[OH:1].CN=C(NC)O[S+:2](C)C|(1, 2)"
train,pmechdb_split_0,0,5190,"C1=CC=C(C2C[O+:1]([CH3:2])C3=C4C(=CC=C3)C3=C(C=CC=C3)N42)C=C1.CS(=O)(=O)[O-].[I-:3].[Na+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6817,"CCC(C)(C(C)C(C)=O)[O-:1].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8971,"C1=CC=C(C[OH:1])C=C1.C1=CC=CC=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.CCCCCCCCC=CCCCCCCCC(O)(O)[O+:2](CC1=CC=CC=C1)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4378,"CCCC[N+](CCCC)(CCCC)CCCC.CCO.CC[O:1][Si-:2](C)(C)(C)O[Si](C)(C)C.O|((2, 1), 1)"
train,pmechdb_split_0,0,7539,"CO.CO[C:1](=[C:2]1C=CCCCC1=O)[O-:3].C[C:4](=[O:5])[CH:6]=[CH2:7].[H][H].[Na+]|(3, 1);((1, 2), 7);((7, 6), 4);((4, 5), 5)"
train,pmechdb_split_0,0,3749,"CC(C)(C)[N+:1]#[C:2]C.O=S(=O)([O-])O.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7003,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CCCCCC1=C[C:1](=[OH+:2])[C:3](CC=C(C)C)([H:4])C(O)=C1.[OH2:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2314,"CC1=CC23C(=O)C(C[C:1]([H:2])([O:3][S+:4](C)[CH2-:5])C(O)C24OC(=O)OC14)C1C(CC3C)C1(C)C.CC[NH+](CC)CC|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2882,"CC(=O)CC1C(=O)CCCC1([NH3+])[O-:1].CC(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4195,"CC(C#N)[O-:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1006,"O=S(=O)(O)[O-:1].O=[N+]([O-])[C:2]1([H:3])C2=C(C=C[CH+:4]1)C(S(=O)(=O)O)=CC=C2|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,6794,"CN(C)[C:1](C)([O-:2])[O:3]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4863,"CC(C)=[O+:1][H:2].C[Si](C)(C)C[C:3]#[CH:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,4605,"CC12CCC(=[C+]C[Si:1](C)(C)C)C1(C)C=C(O)CC2.CS(=O)(=O)[O-:2]|(2, 1)"
train,pmechdb_split_0,0,4321,"C[S:1][Br:2].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8931,"N#C[CH:1]([H:2])[CH:3]=[NH+:4]C(=N)N.N#[C-:5].O|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,731,"CCC1C[C:1]([NH:2]O)([OH:3])C2=CC=CC=C21.O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9034,"CC(=O)[O-].CO.O.O=CC1CC[C:1]2(CC1)[OH+:2]CC[O:3]2|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,10068,"COC1=CC(I)=C(CCN(C)C(OC(C)(C)C)=[O:1])C=C1OC.[AlH3:2]|(1, 2)"
train,pmechdb_split_0,0,686,"CC1=CC=C(S(=O)(=O)[O:1][CH:2]2CC(CC(C)C)CC(CC(C)C)C2OC(C)=[O:3])C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9853,"CCOC(=O)[CH:1]([H:2])[C:3](C)=[O:4].CCO[C:5](=[CH2:6])[O-:7]|(7, 5);((5, 6), 2);((2, 1), 3);((3, 4), 4)"
